US07094790B2
A solution of 24.6 mg (0.1 mmol) of 4-(2-vinyl-benzooxazol-5-yl)-benzonitrile and 24 mg of racemic 2-methyl-pyrrolidine (Aldrich, CAS #765-38-8) in 0.25 mL of ethanol was stirred at room temperature for 1 hour, then concentrated in vacuo to a glass to give pure product racemic 4-{2-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-benzooxazol-5-yl}-benzonitrile 33 mg (100%): 1H NMR (300 MHz, CDCl3) δ 7.85 (d, J=1.8 Hz, 1 H), 7.77 (d, J=8.4 Hz, 2 H), 7.70 (d, J=8.4 Hz, 2 H), 7.58 (d, J=7.5 Hz, 1 H), 7.50 (dd, J=7.5, 1.8 Hz), 3.2–3.32 (m, 4 H), 1.44–2.65 (m, 7 H), 1.15 (m, 3 H); Mass spectrum: [M+H]+ 332.1.

reactant | 4-(2-vinyl-benzooxazol-5-yl)-benzonitrile | 0.1 mmol, 24.6 mg | C(=C)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C#N)C=C2 | C16H10N2O
reactant | racemic 2-methyl-pyrrolidine | 24 mg | CC1NCCC1 | C5H11N
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
product | racemic 4-{2-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-benzooxazol-5-yl}-benzonitrile | 33 mg, 100% | CC1N(CCC1)CCC=1OC2=C(N1)C=C(C=C2)C2=CC=C(C#N)C=C2 | C21H21N3O
